US08809382B2
Step2: 3-Bromo-2-hexyl-quinoline
To the solution of 2-hexyl-quinolin-3-ylamine in hydrobromic acid at -10° C. was added aqueous solution of sodium nitrite followed by bromine and was allowed to warm up to RT. The reaction was continued for 1 day. Next day the reaction mixture was neutralized using aqueous ammonium hydroxide solution and was extracted with ether. The organic layer was washed with aqueous sodium thiosulfate. The product was purified by column chromatography.

reactant | 2-hexyl-quinolin-3-ylamine | C(CCCCC)C1=NC2=CC=CC=C2C=C1N | C15H20N2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | bromine | BrBr | Br2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrobromic acid | Br | BrH
product | 3-Bromo-2-hexyl-quinoline | BrC=1C(=NC2=CC=CC=C2C1)CCCCCC | C15H18BrN
